US08138175B2
B) 1-[3-(tert-Butyl-diphenyl-silanyloxy)-1-hydroxymethyl-propyl]-3-methyl-4-(3-trifluoromethyl-phenyl)-piperazin-2-one
Sodium borohydride (59 mg, 1.6 mmol) was added at RT to a solution of 4-(tert-butyl-diphenyl-silanyloxy)-2-[3-methyl-2-oxo-4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-butyric acid methyl ester (480 mg, 0.78 mmol) in EtOH (7 mL), then after 20 h the reaction mixture was partitioned between 10% aq. KHSO4 solution and CH2Cl2. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc 4:1) afforded the title compound (224 mg, 49%). Light yellow oil, MS: 585.4 (M+H)+.

reactant | Sodium borohydride | 1.6 mmol, 59 mg | [BH4-].[Na+]
reactant | 4-(tert-butyl-diphenyl-silanyloxy)-2-[3-methyl-2-oxo-4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-butyric acid methyl ester | 0.78 mmol, 480 mg | COC(C(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N1C(C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)C)=O)=O | C33H39F3N2O4Si
solvent | EtOH | 7 mL | CCO | C2H6O
product | 1-[3-(tert-Butyl-diphenyl-silanyloxy)-1-hydroxymethyl-propyl]-3-methyl-4-(3-trifluoromethyl-phenyl)-piperazin-2-one | 224 mg, 49% | C(C)(C)(C)[Si](OCCC(CO)N1C(C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H39F3N2O3Si
